US07122546B2
To 35 g of the oil, 2-acetyl-2-propyl-succinic acid diethyl ester, is added concentrated HCl (200 ml). The mixture is refluxed (oil bath 105° C.) overnight and to it is added brine (100 ml). The mixture is extracted with EtOAc (4×150 ml) and the combined extracts are extracted with 2N aqueous NaOH solution (4×100 ml). The NaOH solution is then cooled to 0° C. and acidified with concentrated HCl. The mixture is extracted with EtOAc (4×200 ml) and the combined extracts are washed with brine (200 ml), dried (Na2SO4) and evaporated in vacuo, which provides 3-acetyl-hexanoic acid as a yellow oil.

reactant | 2-acetyl-2-propyl-succinic acid diethyl ester | C(C)OC(C(CC(=O)OCC)(CCC)C(C)=O)=O | C13H22O5
reactant | HCl | 200 ml | Cl | ClH
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 3-acetyl-hexanoic acid | C(C)(=O)C(CC(=O)O)CCC | C8H14O3
